Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Elevated Inr, Tachycardia, Hypoxia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old woman with a history of DMII, 
afib, anticoagulated for MVR in ___ who was referred to the 
ED for an INR of >9. Ms. ___ notes poor PO intake over the 
last month since moving into assisted living. Furthermore, she 
notes more of a subacute decline in appetite since her husband 
died in ___. 

In the ED, initial vital signs were 98.4 130 104/63 16 88% 5L 
Nasal Cannula. Initially she was tachycardic to the 130s which 
resolved spontaneously. She was observed overnight after being 
given 2.5mg PO vitamin K and was noted to be hypotensive to as 
low as systolics of 70. CT abd/pelvis did not reveal any active 
bleeding. She was asyptomatic during these episodes. On transfer 
to the floor VS were 98.3 68 95/49 18 98% RA 

On the floor, T 98.2 112/66 61 16 98% on 3.5L. She has no 
complaints and is not in any pain. She denies any dark stools. 
No n/v, no abd pain. 

Review of Systems:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
Type II diabetes mellitus  
Hypertension  
s/p mechanical mitral valve replacement ___  
Atrial fibrillation on coumadin  
Hypothyroidism  
Hyperlipidema  
Depression  
Peptic ulcer disease - dx'd by EGD in ___, H.pylori + in 
___  
Diverticulosis on colonoscopy in ___  
L vitreous hemorrhage - followed by Dr. ___ for 
vitrectomy on ___  
R retinal detachment
CKD
Interstitial Lung Disease
h/o CHF - most recent echo ___ w/EF >65%
 
Social History:
___
Family History:
Sister with breast ca. Another sister with ca of unknown 
etiology. No h/o GI disease, IBD.
 
Physical Exam:
Admission exam:
Vitals-  98.32 112/66 61 16 98% 3.5L
General: alert and oriented, no acute distress
HEENT: Right eye closed, s/p surgery, left eye appropriate light 
reflex, left eye EOMI, oropharynx clear without lesions  
Neck: supple, no cervical or supraclavicular lymphadenopathy
CV: r/r/r, no m/r/g
Lungs: CTA bilaterally
Abdomen: soft, nontender, nondistended, normoactive bowel sounds
GU: no foley
Ext: no clubbing, cyanosis or edema, 2+ DP pulses bilaterally, 
ecchymoses noted in bilaterally antecubital fossa
Neuro: CN II-XII intact, ___ strength upper and lower 
extremities bilaterally, 2+ brachioradialis and biceps reflexes, 
no pronator drift, normal finger-nose
 
Discharge exam:
Vitals: 98.4 49 117/58 (107-128/50-90) 18 100%
General: alert and oriented, no acute distress
HEENT: Right eye closed, s/p surgery, left eye EOMI, oropharynx 
clear without lesions  
Neck: supple, 
CV: r/r/r, soft II/VI murmur best heard at left sternal border
Lungs: CTA bilaterally
Abdomen: soft, nontender, nondistended, normoactive bowel sounds
GU: foley in place
Ext: no clubbing, cyanosis or edema, 2+ DP pulses bilaterally, 
Neuro: able to move all extremities, alert, conversant
 
Pertinent Results:
Admission:
___ 04:25PM BLOOD WBC-4.0 RBC-4.19* Hgb-11.8* Hct-36.6 
MCV-88 MCH-28.2 MCHC-32.3 RDW-14.1 Plt ___
___ 04:25PM BLOOD Neuts-56.2 ___ Monos-8.9 Eos-2.7 
Baso-1.8
___ 04:25PM BLOOD ___ PTT-81.4* ___
___ 04:25PM BLOOD Glucose-111* UreaN-48* Creat-2.2* Na-139 
K-4.4 Cl-99 HCO3-22 AnGap-22*

Discharge:
___ 06:25AM BLOOD WBC-3.7* RBC-3.66* Hgb-9.9* Hct-32.6* 
MCV-89 MCH-27.1 MCHC-30.4* RDW-13.8 Plt ___
___ 06:25AM BLOOD ___ PTT-46.2* ___
___ 06:25AM BLOOD Glucose-100 UreaN-30* Creat-1.9* Na-143 
K-4.2 Cl-107 HCO3-27 AnGap-13

Imaging:

CXR ___:
FINDINGS:  Frontal and lateral views of the chest were obtained. 
 The patient is status post median sternotomy and cardiac valve 
replacement.  Mediastinal contours are stable.  There is 
againmild prominence of the main pulmonary artery.  The cardiac 
silhouette is top normal.  There is mild diffuse increase in 
interstitial markings bilaterally, which may be due to mild 
interstitial edema.  No large pleural effusion is seen.  There 
is no pneumothorax.
 
IMPRESSION:  Mild interstitial edema.

CT abd/pelvis ___:
IMPRESSION:
1.  No evidence of abdominal or retroperitoneal fluid collection
2.  Interstitial thickening and bibasilar atelectasis. 
3.  The infrarenal aorta prior to the bifurcation is ectacic 
measuring up to 2.3 cm.
4.  Fibroid uterus. 

 
Brief Hospital Course:
Impression: Ms. ___ is an ___ yo woman with a hx of DMII, s/p 
MVR with baseline CKD who presents with elevated INR and ___.

**ACUTE ISSUES**
# Coagulopathy with Supratherapeutic INR: INR reported to be 9.2 
from outside laboratory and patient referred to ED, where INR 
was found to be 12.5. This is most likely due to combination of 
poor PO intake and inappropriate medication use. Patient found 
to be hypotensive in ED to SBP in the ___ and CT abd/pelvis was 
done to r/o bleeding. Patient given 5mg vitamin K and INR was 
allowed to drift down to 4.9, at which point warfarin was 
restarted at 2.5mg. INR continued to drift down to 3.5 and her 
dose was increased to 5mg at discharge in order to remain 
therapeutic. She will need an INR check on ___.

# Weakness and anorexia: Patient describes emotional decline 
since her husband died in ___ and she has lost 10 lbs since 
___. Although she reports good social support from family 
and friends, she lives alone and cooks for herself. 
Rehabilitation was discussed, per ___ notes, but patient 
declined this option.

# Hematuria: noted on exam on HD2 while Foley was in place. UA 
was not consistent with UTI; Hct remained stable and hematuria 
resolved with observation. 

# Acute on chronic kidney disease: Likely due to poor PO intake. 
Patient's baseline creatinine likely ~1.8-2.0 and on admission 
was 2.6. Resolved with IVF and was 1.9 at discharge. Lisinopril 
and Lasix were held in this setting. 

**CHRONIC ISSUES**
# h/o diastolic heart failure: Most recent echo in ___ 
showed normal EF > 65% with normal LV thickness and cavity size. 
BNP was not markedly elevated. 

# Interstitial lung disease: Pt has been reluctant to consider 
intervention for tissue diagnosis, oxygen was continued at ___.

# T2DM: most recent A1c was 6.3% on ___ and is diet 
controlled without the use of any oral medications. 

# h/o afib: Appears to not be an issue since valve replacement 
and is not on any rate control medication.

# hypertension: Lisinopril and Lasix were held as above, blood 
pressure was well-controlled during hospitalization at SBP of 
100 - 120.

# hypothyroidism: continued home levothyroxine.

# HLD: continued home simvastatin

# GERD: continued home omeprazole

**TRANSITIONAL ISSUES**
- Patient requires continued support at home for appropriate 
warfarin use
- INR check on ___, discharged on 5mg warfarin daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE Q8H 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QHS 
6. Simvastatin 40 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. travoprost 0.004 % OD qhs 
9. Warfarin 7.5 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE Q8H 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QHS 
5. Simvastatin 40 mg PO DAILY 
6. travoprost 0.004 % OD qhs 
7. Outpatient Lab Work
Please have your INR checked on ___ and fax results to Dr. 
___ 
Phone: ___ 
Fax: ___ 

8. Warfarin 5 mg PO DAILY 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Elevated INR
Poor nutritional intake

Secondary:
Hypotension
Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ ___ 
___. You were admitted because your coumadin level 
was dangerously high. We held your warfarin and your INR came 
down. We then restarted your warfarin. Please take warfarin as 
described below and have your INR checked. Your primary care 
doctor ___ need to adjust it depending on your blood levels. 

Medication changes:
- Warfarin 5mg DAILY until adjusted by primary care doctor.
 
Followup Instructions:
___